Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Sacral decub ulcer, UTI
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ w/ PMHx of advanced ___ presenting for evaluation of 
large sacral decubitus ulcer initially to ___, now 
transferred for surgical evaluation
of ulcer. 

Patient with sacral wound which has progressively worsened over
the past several months. Per OMR notes and pt's family, pt has
been noted to be increasingly fatigued, lethargic, and anorexic.
At baseline, patient eats well and is more interactive. He was
noted to have several fevers to 101-102 which ultimately 
prompted
presentation to ___ earlier today. On initial evaluation
___, pt was noted to be hemodynamically stable but 
febrile.
His wound was found to be large, necrotic with possible fecal
drainage concerning for colonic fistualization. He was
empirically started on vanc/zosyn, surgery debrided his wound to
the level of fascia but noted significant undermining. Pt was
transferred to
___ for further surgical evaluation given these concerns. 

In the ED, initial VS were: 99.1
76
106/53
18
99% RA  
Exam notable for: foul smelling, 4x5cm decubitus ulcer with
necrotic issue overlying bone. wound tracks into left buttock
with scant brown drainage. there is no overlying fluctuanance or
cellulitis  
Labs showed: WBC 16.3 (19.2 at OSH), lactate 2.9 -> 1.4 (5.7 at
OSH)  
Imaging showed: CXR at OSH negative
CT A/P: 
Disruption of the skin with subcutaneous stranding and foci of
air, which appears to communicate with the rectum (02:21). There
is no evidence of osseous involvement, though air and stranding
extend to the posterior sacrum (2:63). Soft tissue stranding and
air tracks along the perineum, primarily on the left side, and
into the left scrotum and subcutaneous tissues overlying the 
left
pelvic wall. This raises concern for Fournier's gangrene.
Surgical consult is recommended. 
Consults:  Surgery - no clinical evidence of an acute surgical
issue, such as Fournier's gangrene on exam, will take to OR
tomorrow for debridement, infectious likely combination of wound
+ UTI 
Patient received: Zosyn  
Transfer VS were: 100.8 76
111/56
26
97% RA
  
On arrival to the floor, patient is unverbal. Wife at bedside 
who
reports the history above. She clearly states he is DNR/DNI and
would not want an aggressive surgery. If the debridement will
entail extensive debridement than she would not want it. She
would like to have a discussion of this with her son tomorrow
before the OR. 
 
REVIEW OF SYSTEMS: 10 point ROS reviewed and negative except as
per HPI  
 
 
Past Medical History:
Parkinsons disease
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
========================
VS:  98.6 90 / 49 HR72RR20 96% on Ra
GENERAL: NAD, nonverbal, lying with eyes closed shut, small 
frail
man 
HEENT: dry MMM 
NECK: supple
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding
EXTREMITIES: diffuse muscle atrophy  
BACK:  foul smelling, 4x5cm decubitus ulcer with necrotic issue
overlying bone. wound tracks into left buttock with scant brown
drainage. there is no overlying fluctuanance or cellulitis.
GU: Scrotum edematous, erythematous without necrosis 
NEURO: unable to assess  

DISCHARGE PHYSICAL EXAM:  
========================
VS:24 HR Data (last updated ___ @ 916)
    Temp: 98.1 (Tm 98.1), BP: 128/63, HR: 74, RR: 18, O2 sat:
99%, O2 delivery: RA  
GENERAL: NAD, nonverbal, lying with eyes closed shut, small 
frail
man 
HEENT: dry MMM 
NECK: supple
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding
EXTREMITIES: diffuse muscle atrophy  
BACK: foul smelling, 4x5cm decubitus ulcer with necrotic issue
overlying bone. wound tracks into left buttock with scant brown
drainage. there is no overlying fluctuanance or cellulitis.
GU: Scrotum edematous, erythematous without necrosis 
NEURO: unable to assess  

 
Pertinent Results:
ADMISSION LABS:
==============
___ 07:50PM BLOOD WBC-16.3* RBC-2.68* Hgb-7.8* Hct-25.1* 
MCV-94 MCH-29.1 MCHC-31.1* RDW-15.5 RDWSD-53.5* Plt ___
___ 07:50PM BLOOD Neuts-89* Bands-7* Lymphs-3* Monos-1* 
Eos-0 Baso-0 ___ Myelos-0 AbsNeut-15.65* 
AbsLymp-0.49* AbsMono-0.16* AbsEos-0.00* AbsBaso-0.00*
___ 07:50PM BLOOD Hypochr-NORMAL Anisocy-NORMAL Poiklo-1+* 
Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL Burr-1+*

IRON STUDIES:
============
___ 08:45AM BLOOD calTIBC-96* VitB12-620 Hapto-274* 
Ferritn-709* TRF-74* Iron-13*
___ 08:45AM BLOOD Ret Aut-1.1 Abs Ret-0.03

LACTATE:
========
___ 08:40PM BLOOD Lactate-2.4*
___ 12:07AM BLOOD Lactate-1.9

URINE STUDIES:
==============
___ 07:50PM URINE Color-Yellow Appear-Clear Sp ___
___ 07:50PM URINE Blood-SM* Nitrite-NEG Protein-30* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-LG*
___ 07:50PM URINE RBC-25* WBC-61* Bacteri-FEW* Yeast-NONE 
Epi-<1
___ 07:50PM URINE WBC Clm-RARE*

MICRO:
=======
___ 7:50 pm BLOOD CULTURE

   Blood Culture, Routine (Preliminary): 
      GRAM NEGATIVE ROD(S). 

   Aerobic Bottle Gram Stain (Final ___: 
      GRAM NEGATIVE ROD(S). 

IMAGING:
========
___BD & PELVIS WITH CO
1. Large skin ulcer extending to the posterior sacral cortex.  
Ulcers
extending to the bone often indicate osteomyelitis, but there is 
no bony
erosion or aggressive appearing periosteal reaction.  Soft 
tissue air tracks along the ischioanal fossa, into the scrotum, 
left greater than right, and into the subcutaneous tissues 
overlying the left abdominal wall, presumably related to the 
ulcer.  Please correlate for any clinical evidence of an 
aggressive soft tissue infection.
2. Diffuse anasarca.

DISCHARGE LABS:
===============
___ 08:45AM BLOOD WBC-16.7* RBC-2.85* Hgb-8.3* Hct-26.2* 
MCV-92 MCH-29.1 MCHC-31.7* RDW-15.6* RDWSD-52.5* Plt ___
___ 01:13AM BLOOD Hypochr-1+* Anisocy-NORMAL Poiklo-1+* 
Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL Target-1+* Tear 
Dr-OCCASIONAL
___ 08:45AM BLOOD ___ PTT-28.2 ___
___ 08:45AM BLOOD Glucose-107* UreaN-38* Creat-1.0 Na-150* 
K-3.7 Cl-118* HCO3-20* AnGap-12
___ 08:45AM BLOOD LD(LDH)-140
___ 08:45AM BLOOD Calcium-7.3* Phos-3.4 Mg-2.3 Iron-13*
___ 08:45AM BLOOD calTIBC-96* VitB12-620 Hapto-274* 
Ferritn-709* TRF-74*
 
Brief Hospital Course:
___ w/ PMHx of advanced ___ Disease transferred for 
surgical evaluation of large sacral decubitus ulcer found to 
have ___ bottles GNR bacteremia, possible colonic fistulization, 
and UTI on vanc/zosyn. Per ___ conversation on arrival to 
medicine floor, family decided to pursue comfort measures. 

ACUTE ISSUES: 
=============
#Sacral decubitus ulcer (likely osteomyelitis):
#Colonic fistula
#GNR bacteremia with sepsis (WBC 15, T 100.8)
#UTI 
S/p bedside debridement at OSH. Started on empiric vanc/zosyn. 
Blood cultures positive for GNRs. Grossly positive UA c/f UTI. 
Evaluated by ACS for debridement, although in speaking with 
patient and family, this is not within goals of care. 
Debridement would likely cause more pain in the short-term and 
would take a long time to heal given the extensive and deep 
wound to bone. Both son and wife in agreement that undergoing a 
painful surgery is not something the patient would have wanted 
at this point. They understand that he may die from this 
infection, and have pursued comfort measures only. Pain 
management with IV Dilaudid. 

#Advanced ___ Disease:
#Goals of Care: 
Patient is non-verbal and bedbound at baseline. As per wife, 
patient has made clear he is DNR/DNI previously. Would not want 
aggressive measures including surgery as above. Patient was 
transitioned to CMO during this admission, with plan for 
discharge to ___ in ___. He is currently NPO 
given aspiration risk, although comfort feeding would also be 
appropriate at this point. If family is willing to accept 
aspiration risk, would recommend comfort feeding as tolerated.

TRANSITIONAL ISSUES: 
====================
[ ] Patient transitioned to comfort measures only, discharge to 
___ in ___
[ ] IV Dilaudid ___ Q2 PRN for pain 
[ ] He is currently NPO given aspiration risk, although comfort 
feeding would also be appropriate at this point. If family is 
willing to accept aspiration risk, would recommend comfort 
feeding as tolerated.
[ ] MOLST in chart

#CODE: DNR/DNI, CMO
#CONTACT: Next of Kin: ___
 Relationship: WIFE
 Phone: ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. carbidopa-levodopa-entacapone ___ mg oral TID 
2. LORazepam 0.5 mg PO PRN prior to MRI 
3. Clobetasol Propionate 0.05% Cream 1 Appl TP BID 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever  
2.  Hydromorphone (Oral Solution) 1 mg/1 mL ___ mg PO Q4H:PRN 
severe pain 
RX *hydromorphone [Dilaudid] 1 mg/mL 1 by mouth every four (4) 
hours Refills:*0 

 
Discharge Disposition:
Extended Care
 
Facility:
___ 
 
Discharge Diagnosis:
Sacral Wound ulcer 
Osteomyelitis 
Gram negative bacteremia 
___ Disease 

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Lethargic but arousable.
Activity Status: Bedbound.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___.

WHY WAS I IN THE HOSPITAL?
- You were here for evaluation of your ulcer.

WHAT HAPPENED TO ME IN THE HOSPITAL?
- You were found to have an infection in your blood, which was 
likely coming from your ulcer. 
- We treated this infection initially with antibiotics.
- Our surgeons were consulted, but surgery was not within our 
goals of care for Mr. ___, as this would likely increase 
short-term pain and discomfort.
- Plan to go to a ___ facility and focus on comfort 
measures.

We wish you the best!

Sincerely,
Your ___ Team
 
Followup Instructions:
___